US04738972
1-Benzyl-1,2,3,4-tetrahydro-6-quinolinecarbaldehyde
To dimethylformamide (1.7 ml, 0.022 mol) at 0° C. was added dropwise POCl3 (2.0 ml, 0.022 mol) and the mixture allowed to warm and stirred at ambient temperature for 20 minutes, then diluted with 1,2-dichloroethane (5 ml). 1-Benzyl-1,2,3,4-tetrahydroquinoline (4.5 g, 0.020 mol) dissolved in 5 ml of 1,2-dichloroethane was then added and the mixture refluxed 1 hour, then cooled to room temperature. Sodium acetate (9.0g, 0.11 mol), dissolved in the minimum necessary water, was added and the mixture refluxed for 15 minutes. The layers were separated and the aqueous layer extracted 2×10 ml ether.

reactant | dimethylformamide | 0.022 mol, 1.7 ml | CN(C=O)C | C3H7NO
reactant | POCl3 | 0.022 mol, 2.0 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 1-Benzyl-1,2,3,4-tetrahydroquinoline | 0.020 mol, 4.5 g | C(C1=CC=CC=C1)N1CCCC2=CC=CC=C12 | C16H17N
reactant | Sodium acetate | 0.11 mol, 9.0g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 1-Benzyl-1,2,3,4-tetrahydro-6-quinolinecarbaldehyde | C(C1=CC=CC=C1)N1CCCC2=CC(=CC=C12)C=O | C17H17NO
